US05457104
b) 2,4,6-Trifluoro-3-trifluoromethylbenzoyl chloride
5.8 g (0,024 mol) of 2,4,6-trifluoro-3-trifluoromethylbenzoic acid are added in portions at room temperature to 40 ml of thionyl chloride. After metering has ended, the mixture is heated at 50° C. until the evolution of gas has ceased. The excess thionyl chloride is then removed by distillation, and the crude product is reacted further directly.

reactant | 2,4,6-trifluoro-3-trifluoromethylbenzoic acid | 0,024 mol, 5.8 g | FC1=C(C(=O)O)C(=CC(=C1C(F)(F)F)F)F | C8H2F6O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2,4,6-Trifluoro-3-trifluoromethylbenzoyl chloride | FC1=C(C(=O)Cl)C(=CC(=C1C(F)(F)F)F)F | C8HClF6O
